US07414140B2
In a 100 ml flask were placed Fluvastatin methyl ester (2.0 g) and a solution of NaOH (0.19 g) in EtOH (5 ml). The mixture was stirred at reflux for 3.5 h and propan-2-ol (40 ml) was added. The slurry was cooled to room temperature and stirred over night. The product was isolated by filtration under nitrogen, washed with propan-2-ol (20 ml) and dried at 50° C. in a vacuum oven for 24 h to obtain 1.93 g (95%) of fluvastatin sodium crystal Form XXXIX.

reactant | Fluvastatin methyl ester | 2.0 g | CC(C)N1C2=CC=CC=C2C(=C1/C=C/[C@@H](C[C@@H](CC(=O)OC)O)O)C3=CC=C(C=C3)F | C25H28FNO4
reactant | NaOH | 0.19 g | [OH-].[Na+]
reactant | propan-2-ol | 40 ml | CC(C)O | C3H8O
solvent | EtOH | 5 ml | CCO | C2H6O
product | fluvastatin sodium | 1.93 g, 95% | CC(C)N1C=2C=CC=CC2C(=C1/C=C/C(CC(CC(=O)[O-])O)O)C=3C=CC(=CC3)F.[Na+] | InChI=1S/C24H26FNO4.Na/c1-15(2)26-21-6-4-3-5-20(21)24(16-7-9-17(25)10-8-16)22(26)12-11-18(27)13-19(28)14-23(29)30;/h3-12,15,18-19,27-28H,13-14H2,1-2H3,(H,29,30);/q;+1/p-1/b12-11+;
